US06858651B2
1.71 g (10 mmol) (1,4-dioxa-spiro[4.5]dec-8-yl)-methyl-amine (e.g. Reductive amination: Avenell, Kim Y.; Boyfield, Izzy; Hadley, Michael S.; Johnson, Christopher N.; Nash, David J.; Riley, Graham J.; Stemp, Geoffrey; BMCLE8; Bioorg.Med.Chem.Lett.; EN; 9; 18; 1999; 2715-2720.) were stirred with 20 ml (20 mmol) 1M HCl for 1 h. At RT 2.12 g (20 mmol) Na2CO3 were added, followed by the addition of 2.4 g (11.0 mmol) di-tert.butyldicarbonate in 20 ml EtOAc. The solution was stirred at RT for 4 h, the phases were separated and the inorganic one extracted with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated. Crystallization from methylcyclohexane gave 0.95 g (42%) Methyl-(4-oxo-cyclohexyl)-carbamic acid tert-butyl ester.

reactant | (1,4-dioxa-spiro[4.5]dec-8-yl)-methyl-amine | 10 mmol, 1.71 g | O1CCOC12CCC(CC2)NC | C9H17NO2
reactant | HCl | 20 mmol, 1M, 20 ml | Cl | ClH
reactant | Na2CO3 | 20 mmol, 2.12 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-tert.butyldicarbonate | 11.0 mmol, 2.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | Methyl-(4-oxo-cyclohexyl)-carbamic acid tert-butyl ester | 0.95 g, 42% | C(C)(C)(C)OC(N(C1CCC(CC1)=O)C)=O | C12H21NO3
